US07323475B2
g) 2-(S)-[(4-Hydroxy-7-phenylsulfanyl-isoquinoline-3-carbonyl)-amino]-propionic acid
A mixture of 4-hydroxy-7-phenylsulfanyl-isoquinoline-3-carboxylic acid butyl ester (0.20 g) and L-alanine (0.75 g) in 0.5 M NaOMe/MeOH (11.3 ml) was heated to reflux for 36 h. After coolng, reaction mixture was concentrated. The residue was suspended in water (50 ml) and extracted with ethyl acetate (50 ml) which was discarded. The aqueous layer was acidified by 2 N HCl aqueous solution. Extracted with ethyl acetate (2×50 ml). Combined organic layers were dried over magnesium sulfate, filtered, and concentrated to give the title compound (0.15 g). MS-(−)-ion: M−1=367.1.

reactant | 4-hydroxy-7-phenylsulfanyl-isoquinoline-3-carboxylic acid butyl ester | 0.20 g | C(CCC)OC(=O)C=1N=CC2=CC(=CC=C2C1O)SC1=CC=CC=C1 | C20H19NO3S
reactant | L-alanine | 0.75 g | N[C@@H](C)C(=O)O | C3H7NO2
solvent | NaOMe MeOH | 0.5 M, 11.3 ml | C[O-].[Na+].CO
product | 2-(S)-[(4-Hydroxy-7-phenylsulfanyl-isoquinoline-3-carbonyl)-amino]-propionic acid | 0.15 g | OC1=C(N=CC2=CC(=CC=C12)SC1=CC=CC=C1)C(=O)N[C@H](C(=O)O)C | C19H16N2O4S
